US04426524
Under a dry nitrogen atmosphere, a stirred solution of 1.2 g (0.006 mol) of cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid in 40 mL of toluene was heated to 80° C.±5° C. To this solution was added a solution of 0.7 g (0.006 mol) of oxalyl chloride in 5 mL of toluene. Upon complete addition, the reaction mixture was heated at 82° C.±5° C. for 60 hours. The reaction mixture was cooled to ambient temperature, and 0.9 g (0.011 mol) of pyridine was added. The reaction mixture was stirred for two hours, then warmed to 70° and 1.4 g (0.006 mol) of 3-(2-bromo-5-furanyl)phenylmethanol in 10 mL of toluene was added. Upon complete addition, the reaction mixture was stirred at 70° C.±5° C. for 21.5 hours. The reaction mixture was transferred to a separatory funnel, 200 mL of toluene washings were added, and the mixture was washed with 100 mL of an aqueous 2 N hydrochloric acid solution, 100 mL of a saturated aqueous solution of sodium chloride, 100 mL of an aqueous 2 N solution of sodium hydroxide, and finally 100 mL of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give a residual oil. The oil was subjected to medium pressure liquid chromatography using hexane:ethyl acetate (46:1). The appropriate fractions were combined and concentrated to give a crystalline solid. The solid was recrystallized from methanol, then from hexane to give 0.9 g of [3-(5-bromofuranyl)phenyl]methyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate, m.p. 76.5°-77° C.

reactant | cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.006 mol, 1.2 g | ClC(=C[C@H]1C([C@H]1C(=O)O)(C)C)Cl | C8H10Cl2O2
reactant | oxalyl chloride | 0.006 mol, 0.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.011 mol, 0.9 g | N1=CC=CC=C1 | C5H5N
reactant | 3-(2-bromo-5-furanyl)phenylmethanol | 0.006 mol, 1.4 g | BrC=1OC(=CC1)C=1C=C(C=CC1)CO | C11H9BrO2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | [3-(5-bromofuranyl)phenyl]methyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | 0.9 g | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=CC(=CC=C1)C=1OC(=CC1)Br)(C)C)Cl | C19H17BrCl2O3
